US06054470
A mixture of 1-phenylcyclopropane carboxylic acid (16.5 g, 101 mmol), sodium iodate (5.04 g) and concentrated sulfuric acid (1 mL) in acetic acid (70 mL) was stirred and heated at 70° C. for 2 days. Additional sodium iodate (1.88 g) and sulfuric acid (1 mL) were added, and stirring was continued for 1 day. The acetic acid was evaporated, and the residue was partitioned between ethyl acetate and water. The organic phase was washed with aqueous sodium thiosulfate, dried, filtered, and evaporated. The solid residue was recrystallized from methanol/water to give 1-(4-iodophenyl)cyclopropane-1-carboxylic acid (7.98 g, 27 mmol, 27%).

reactant | 1-phenylcyclopropane carboxylic acid | 101 mmol, 16.5 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | sodium iodate | 5.04 g | I(=O)(=O)[O-].[Na+]
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium iodate | 1.88 g | I(=O)(=O)[O-].[Na+]
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 1-(4-iodophenyl)cyclopropane-1-carboxylic acid | 27 mmol, 7.98 g, 27% | IC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9IO2
